US06369070B1
N-(5-Methylisoxaz-3-oyl)-3-Aminobenzylamine
To a solution containing 260 mg (1.00 mmol) of N-(5-methylisoxaz-3-oyl)-3-nitrobenzylamine in 20 mL of tetrahydrofuran was added 674 mg (3.00 mmol) of tin chloride dihydrate, followed by 2 ml of concentrated hydrochloric acid. The reaction was stirred at room temperature for 18 hours and then diluted with 100 mL of ethyl acetate. The organic solution was washed with saturated aqueous sodium bicarbonate, dried over sodium sulfate, filtered, and concentrated to give 200 mg (86%) of the title compound as a yellow foam. MS(FD) m/z 231 (M+).

reactant | N-(5-methylisoxaz-3-oyl)-3-nitrobenzylamine | 1.00 mmol, 260 mg | CC1=CC(=NO1)C(=O)NCC1=CC(=CC=C1)[N+](=O)[O-] | C12H11N3O4
reactant | tin chloride dihydrate | 3.00 mmol, 674 mg | O.O.[Sn](Cl)(Cl)(Cl)Cl
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-(5-Methylisoxaz-3-oyl)-3-Aminobenzylamine | 200 mg, 86% | CC1=CC(=NO1)C(=O)NCC1=CC(=CC=C1)N | C12H13N3O2
